US05155106
12.36 g of the thus produced N-(4-methoxy-2-methoxymethoxybenzoyl)thiazolidine-2-thion and 8.36 g of 2-aminothiazoline was dissolved in 150 ml of tetrahydrofuran, and the solution was agitated for 20 hours. To the solution was added 2N aqueous solution of sodium hydroxide. The mixture was extracted with methylene chloride and the extract was dried over anhydrous sodium sulfate. The solvent was distilled off in evacuated atomosphere, and the residue was subjected to column chromatography using silica gel. There was obtained 10.15 g of 2-(4-methoxy-2-methoxymethoxybenzoylamino)thiazoline from fractions eluted with methylene chloride.

reactant | N-(4-methoxy-2-methoxymethoxybenzoyl)thiazolidine-2-thion | COC1=CC(=C(C(=O)N2C(SCC2)=S)C=C1)OCOC | C13H15NO4S2
reactant | 2-aminothiazoline | 8.36 g | NC=1SCCN1 | C3H6N2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-(4-methoxy-2-methoxymethoxybenzoylamino)thiazoline | 10.15 g | COC1=CC(=C(C(=O)NC=2SCCN2)C=C1)OCOC | C13H16N2O4S
